US04451624
To a solution of diallyl methylamine (17.90 g) in acetone (35 ml) was added methyl chloracetate (17.47 g). The mixture was allowed to stand at ambient temperature for 48 hours. The solvent was then removed by evaporation under reduced pressure. The residue, a thick oil, was made more mobile by the addition of isopropanol (5.0 ml) and the product re-precipitated by the addition of ether (700 ml). The product separated as a heavy oil. The ether layer was decanted and the product again mobilised by the addition of isopropanol (5.0 ml). Any residual ether and the isopropanol were removed by evaporation under a vacuum of 1 mmHg and gentle heating. The product N-carbomethoxy methyl-N-methyl-N,N-diallyl ammonium chloride (29.20 g) was isolated as a pale yellow oil (free from starting materials by glc).

reactant | diallyl methylamine | 17.90 g | C(C=C)N(C)CC=C | C7H13N
reactant | methyl chloracetate | 17.47 g | ClCC(=O)OC | C3H5ClO2
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | N-carbomethoxy methyl-N-methyl-N,N-diallyl ammonium chloride | 29.20 g | [Cl-].C(=O)(OC)C[N+](CC=C)(CC=C)C | InChI=1S/C10H18NO2.ClH/c1-5-7-11(3,8-6-2)9-10(12)13-4;/h5-6H,1-2,7-9H2,3-4H3;1H/q+1;/p-1
